US05457121
B. 1-methyl-cis-3,4-di (hydroxymethyl) pyrrolidine
To a suspension of 3.8 gm (100 mMol) lithium aluminum hydride in 200 mL tetrahydrofuran were added dropwise a solution of 10.0 gm (50.0 mMol) 1-methyl-cis-3,4-pyrrolidinedicarboxylic acid dimethyl ester in 50.0 mL tetrahydrofuran. The reaction mixture was stirred at ambient for about 1 hour and was then quenched by the sequential addition of 3.8 mL water, 3.8 mL 15% aqueous sodium hydroxide solution and 11.4 mL of water. The resultant mixture was stirred at ambient for 20 hours. At this point the suspension was filtered through a bed of Celite and the filter cake was washed with tetrahydrofuran. The combined liltrates were concentrated in vacuo to give 6.7 gm of the desired compound as a light yellow oil.

reactant | lithium aluminum hydride | 100 mMol, 3.8 gm | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-methyl-cis-3,4-pyrrolidinedicarboxylic acid dimethyl ester | 50.0 mMol, 10.0 gm | COC(=O)[C@@H]1CN(C[C@@H]1C(=O)OC)C | C9H15NO4
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50.0 mL | O1CCCC1 | C4H8O
product | 1-methyl-cis-3,4-di (hydroxymethyl) pyrrolidine | 6.7 gm | CN1C[C@H]([C@H](C1)CO)CO | C7H15NO2
